*****************************************************************
****STMicroelectronics MOSFET, IGBT and Bipolar Library *********
*****************************************************************
*                                                               *
* Models provided by STMicroelectronics are not guaranteed to   *
* fully represent all the specifications and operating          *
* characteristics of the product behavior that they reproduce.  *
* The model describes the characteristics of a typical device.  *
* In all cases, the current product data sheet contains all     *
* information to be used like final design guidelines and the   *
* only actual performance specification.                        *
* Altough models can be a useful tool in evaluating device      *
* performance, they cannot model exact device performance under *
* all conditions.                                               *
* STMicroelectronics therefore does not assume any              *
* responsibility arising from their use.                        *
* STMicroelectronics reserves the right to change models        *
* without prior notice.                                         *
*                                                               *
* Rev 1.2.4 - Marzo 2020                                        *
*****************************************************************

*****************************************************************

.subckt SCT016H120G3AG_V2K_L drain gate source kelvin  

E1    Tj     val_T      VALUE={TEMPSiC}
R1   val_T   0      1m
.PARAM  dR=0 dVth=0 dVsd=0 dCi=0 dCr=0 dCo=0

Rkelvin kelvin s2 5m
Ckelvin kelvin s2 1p
VLd    drain   d3x  0
*RLd   drain   d3x    1
VR_dr  d3  d2   0
Rdrain-fissa d3x d3 3m
VLg gate    g2     0
*RLg gate    g2      1
VLs source  s2      0
*RLs source  s2      1

Rg   g2 g1  1.35

*****************************************************************
.param AX=3.7m BX=400m DX=1.1 Ct0=73 EX=0.5 R_gain=10k fx=1  
*****************************************************************

V2xx 22  d1  0
Grdrain 22 d2 value ={(r_gain*v(d1,d2))/((Fx*(AX*V(Tj)*V(Tj)+BX*V(Tj)+CX))+DX*(I(V2xx)**EX))}
rdrainb 22 d2 500k

.PARAM  CX={(Ct0+(Ctmax-Ct0)*limit(dR,0,1)-(Ctmin-Ct0)*limit(dR,-1,0))}
.PARAM Ctmin=-75 Ctmax=13.3


*****************************Gmos********************************

.param ksat=4.7

GMOS1 d1 s2 VALUE={ksat*IMOS(V(A2),V(d1,s2),V(Tj))}

RGMOS1 d1 s2 500k

.FUNC GGX(V,W) {1*(V-100m*ASINH(W/1)-100m*W)}

.FUNC GGY(V)   {1.9u*V**(7.487*1)}

.FUNC IMOS(V,W,T) {(V*(1+(1.5*(1+alpha*(T-T0))+V/25))*W/(ABS(W)+(4*(1+beta*(T-T0))+V/50*(1+gamma*(T-T0)))))}

Esoglia1 A1  0 VALUE={GGX(MIN(MAX(V(gx,source),0),30),MIN(MAX(V(A2),0),200))}
Esoglia2 A2 0 VALUE={GGY(MIN(MAX(V(A1),0),40))}

.PARAM T0=25 alpha=1m beta=-2.86m gamma=-4.3m

************************** Soglia *****************************
.param Vth0=0.05  Vthx=-8m
Evth g1 gx VALUE={(Vthx*(V(Tj)-T0))+Vth0+(Dsoglia)}

.PARAM  Dsoglia={((Vtmax)*limit(dVth,0,1)+(Vtmin)*limit(dVth,-1,0))}
.PARAM Vtmin=0.3 Vtmax=1.33

**************************** Ci ********************************
CGS  g1 source  {3625p}
rcgs g1 source 10MEG
.PARAM  Ci={Ci0+(Cimax-Ci0)*limit(dCi,0,1)-(Cimin-Ci0)*limit(dCi,-1,0)}
.PARAM Cimin=0.7 Cimax=1.3
.PARAM Ci0=1

**************************** CMiller ***************************
.PARAM  Cr={Cr0+(Crmax-Cr0)*limit(dCr,0,1)-(Crmin-Cr0)*limit(dCr,-1,0)}
.PARAM Crmin=0.7 Crmax=1.3
.PARAM Cr0=1
Edev dev1 0 value {v(d1,g1)}
c_dev1 dev1 dev2 1E-12
R_dev dev2 dev3 1000
V_miller dev3 0 0 
G_miller d1 g1  value ={1*Cr*v(alfa)*i(V_miller)*1E12}
Rcap alfa 0 1E03
Ecap alfa 0 TABLE ={V(d1,g1)}
+(0.1,1433.18p) 
+(0.2,1405.27p) 
+(0.5,1341.96p) 
+(1,1262.8p) 
+(2,1134.83p) 
+(3,1023.5p) 
+(5,839.92p) 
+(7,663.04p) 
+(10,163.46p) 
+(15,130.81p) 
+(20,111.78p) 
+(25,98.87p) 
+(30,85.72p) 
+(40,52.16p) 
+(50,47.83p) 
+(100,38.54p) 
+(150,34.59p) 
+(200,32.03p) 
+(250,30.14p) 
+(300,28.71p) 
+(350,27.54p) 
+(400,26.5p) 
+(450,25.72p) 
+(500,25p) 
+(550,24.32p) 
+(600,23.69p) 
+(650,23.2p) 
+(700,22.72p) 
+(750,22.27p) 
+(800,21.97p) 
+(850,21.75p) 
+(900,21.5p) 
+(950,21.33p) 
+(1000,21.26p) 

****************************** Co *******************************
.PARAM  Co={Co0+(Comax-Co0)*limit(dCo,0,1)-(Comin-Co0)*limit(dCo,-1,0)}
.PARAM Comin=0.8 Comax=1.2
.PARAM Co0=1 
Edevc dev1c 0 value {v(drain,source)}
c_dev1c dev1c dev2c 1E-12
R_devc dev2c dev3c 200
V_millerc dev3c 0 0 
G_coss drain source value ={Co*v(alfa2)*i(V_millerc)*1E12}
Rcap2 alfa2 0 1E03
Ecap2 alfa2 0 TABLE ={V(drain,source)}
+(0.1,6856.84p) 
+(0.2,6739.32p) 
+(0.5,6470.61p) 
+(1,6094.48p) 
+(2,5547.48p) 
+(3,5122.57p) 
+(5,4557.47p) 
+(7,4192.15p) 
+(10,3437.78p) 
+(15,2175.22p) 
+(20,1741.97p) 
+(25,1484.43p) 
+(30,1272.95p) 
+(40,806.77p) 
+(50,686.41p) 
+(100,444.85p) 
+(150,356.88p) 
+(200,305.04p) 
+(250,270.57p) 
+(300,245.62p) 
+(350,226.61p) 
+(400,210.28p) 
+(450,199.08p) 
+(500,188.57p) 
+(550,179.53p) 
+(600,171.55p) 
+(650,164.56p) 
+(700,158.68p) 
+(750,152.33p) 
+(800,147.61p) 
+(850,143.48p) 
+(900,140.66p) 
+(950,139.02p) 
+(1000,137.87p) 

***************************** terzo ******************************

Eee h1 0 value {stacco(limit(v(source,gate),0,5),V(Tj))}
Ree h1 h 1
CCC h 0 5u

.PARAM  d_terzo={((Vsdmax)*limit(dVsd,0,1)+(Vsdmin)*limit(dVsd,-1,0))}
.PARAM Vsdmin=0.016 Vsdmax=0.017

.FUNC stacco(vgs,t) {(0.0146+0.012m*(t-25))*Vgs+(0.105-0.11m*(t-25))+(d_terzo+0.05m*(t-25)*0)}
V_diodo d1zd d1z 0

G_diode source d1zd VALUE={I_diode(V(source,d1zd),v(Tj),V(h))}
R_x source d1zd 1E6

.FUNC I_diode(z3,k3,k6) {(exp(min(-15+z3/(did(k3,k6)),7))-0)}
.FUNC did(k4,k5) {k5-3E-05*(k4-25)}

.FUNC ResDiodo(x,vgs) {(0.5m-0.018m*(x-25))*vgs+(17m+0.109m*(x-25))}

Gvf d3x d1z VALUE={V(d3x,d1z)/ResDiodo(V(Tj),v(source,gate))}
R_Y drain d1z 1

************************** Recovery Diode **************************

E_E001 ba 0 VALUE {-I(V_Diodo)}

R_R002 aa ba 1k

C aa 0 5p
.PARAM Irrm=64E03
R_edep drain d_dedep 30

E_Eds d_dedep edep VALUE {-V(aa,0)*Irrm}

Edeva dev1a 0 value {v(edep,source)}
C_dev1a dev1a dev2a 0.3E-12
R_deva dev2a dev3a 1E-06
V_millera dev3a 0 0 
G_millera edep source  value ={1*v(alfaa)*i(V_millera)*1E12}
**********************************************************************
Rcapa alfaa 0 1E03
Ecapa alfaa 0 TABLE ={V(Tj)} (25,1p) (175,1.15p)  
**********************************************************************

.ENDS SCT016H120G3AG_V2K
