*****************************************************************
****** STMicroelectronics MOSFET, IGBT and Bipolar Library ******
*****************************************************************
*                                                               *
* Models provided by STMicroelectronics are not guaranteed to   *
* fully represent all the specifications and operating          *
* characteristics of the product behavior that they reproduce.  *
* The model describes the characteristics of a typical device.  *
* In all cases, the current product data sheet contains all     *
* information to be used like final design guidelines and the   *
* only actual performance specification.                        *
* Altough models can be a useful tool in evaluating device      *
* performance, they cannot model exact device performance under *
* all conditions.                                  				*
* STMicroelectronics therefore does not assume any              *
* responsibility arising from their use.                        *
* STMicroelectronics reserves the right to change models        *
* without prior notice.                                         *
*                                                              	*
* v.19.3.0 - FEB 2021                                      		*
*****************************************************************

**** ok percorso di gate ****

*****************************************************************

.subckt SCT025HU120G3AG_V2K drain gate source kelvin PARAMS:  dR=0 dVth=0 dVsd=0 dCi=0 dCr=0 dCo=0

Rkelvin kelvin s2 5m
Ckelvin kelvin s2 1p

E1    Tj     val_T      VALUE={TEMP}
R1   val_T   0      1m

VLd    drain   d3x  0
*RLd   drain   d3x    1
VR_dr  d3  d2   0
Rdrain-fissa d3x d3 3m
VLg gate    g2     0
*RLg gate    g2      1
VLs source  s2      0
*RLs source  s2      1

Rg   g2 g1  1.4

*****************************************************************
.param AX=6m BX=500m DX=1.1 EX=0.5 R_gain=10k Ct0=165 fx=1 
*****************************************************************
*****************************************************************
V2xx 22  d1  0
Grdrain 22 d2 value ={(r_gain*v(d1,d2))/((Fx*(AX*V(Tj)*V(Tj)+BX*V(Tj)+CX))+DX*(I(V2xx)**EX))}
rdrainb 22 d2 100

.PARAM  CX={(Ct0+(Ctmax-Ct0)*limit(dR,0,1)-(Ctmin-Ct0)*limit(dR,-1,0))}
.PARAM Ctmin=-75 Ctmax=13.3

***************************************************************
******************************Gmos*****************************

.param ksat=2.5

GMOS1 d1 s2 VALUE={ksat*IMOS(V(A2),V(d1,s2),V(Tj))}

.FUNC GGX(V,W) {1*(V-100m*ASINH(W/1)-100m*W)}

.FUNC GGY(V)   {1.9u*V**(7.487*1)}

.FUNC IMOS(V,W,T) {(V*(1+(1.5*(1+alpha*(T-T0))+V/25))*W/(ABS(W)+(4*(1+beta*(T-T0))+V/50*(1+gamma*(T-T0)))))}

Esoglia1 A1  0 VALUE={GGX(MIN(MAX(V(gx,source),0),30),MIN(MAX(V(A2),0),200))}
Esoglia2 A2 0 VALUE={GGY(MIN(MAX(V(A1),0),40))}

.PARAM T0=25 alpha=1.90m beta=-2.86m gamma=-4.3m

*************** Soglia ***********
.param Vth0=-0.2  Vthx=-8m
Evth g1 gx VALUE={(Vthx*(V(Tj)-T0))+Vth0+(Dsoglia)}

.PARAM  Dsoglia={((Vtmax)*limit(dVth,0,1)+(Vtmin)*limit(dVth,-1,0))}
.PARAM Vtmin=0.3 Vtmax=1.33

********************************************************************
**************************** Ci ************************************
CGS  g1 source  {1990p*Ci}
rcgs g1 source 10MEG
.PARAM  Ci={Ci0+(Cimax-Cr0)*limit(dCi,0,1)-(Cimin-Ci0)*limit(dCi,-1,0)}
.PARAM Cimin=0.7 Cimax=1.3
.PARAM Ci0=1

*************** CMiller ***************
.PARAM  Cr={Cr0+(Crmax-Cr0)*limit(dCr,0,1)-(Crmin-Cr0)*limit(dCr,-1,0)}
.PARAM Crmin=0.7 Crmax=1.3
.PARAM Cr0=1
Edev dev1 0 value {v(d1,g1)}
c_dev1 dev1 dev2 1E-12
R_dev dev2 dev3 1
V_miller dev3 0 0 
G_miller d1 g1  value ={1*Cr*v(alfa)*i(V_miller)*1E12}
Rcap alfa 0 1E03
Ecap alfa 0 TABLE ={V(drain,gate)}
+(0.1,676.62p) 
+(0.2,663.54p) 
+(0.5,633.55p) 
+(1,594.23p) 
+(2,533.04p) 
+(3,480.17p) 
+(5,388.97p) 
+(7,289.58p) 
+(10,76.94p) 
+(15,65.21p) 
+(20,61.6p) 
+(25,55.48p) 
+(30,50.12p) 
+(40,28.08p) 
+(50,24.8p) 
+(100,19.4p) 
+(150,17.34p) 
+(200,15.97p) 
+(250,15p) 
+(300,14.27p) 
+(350,13.66p) 
+(400,13.15p) 
+(450,12.76p) 
+(500,12.39p) 
+(550,12.22p) 
+(600,12.17p) 
+(650,12.22p) 
+(700,12.22p) 
+(750,12.27p) 
+(800,12.29p) 
+(850,12.33p) 
+(900,12.35p) 
+(950,12.41p) 
+(1000,12.48p) 

****************************** Co ***********************************
.PARAM  Co={Co0+(Comax-Co0)*limit(dCo,0,1)-(Comin-Co0)*limit(dCo,-1,0)}
***********************************************************
.PARAM Comin=0.8 Comax=1.2
.PARAM Co0=1 
*C_Cds drain source 10p
*G_coss drain source  value ={Co*v(alfa2)*ddt(v(drain,source))}
Edevc dev1c 0 value {v(drain,source)}
c_dev1c dev1c dev2c 1E-12
R_devc dev2c dev3c 200
V_millerc dev3c 0 0 
G_coss drain source value ={Co*v(alfa2)*i(V_millerc)*1E12}

Rcap2 alfa2 0 1E03
Ecap2 alfa2 0 TABLE ={V(drain,source)}
+(0.1,3729.2p) 
+(0.2,3667.94p) 
+(0.5,3526.51p) 
+(1,3322.4p) 
+(2,3033.2p) 
+(3,2805.63p) 
+(5,2504.45p) 
+(7,2293.01p) 
+(10,1992p) 
+(15,1420.69p) 
+(20,1037.72p) 
+(25,862.62p) 
+(30,750.43p) 
+(40,461.05p) 
+(50,378.26p) 
+(100,237.87p) 
+(150,187.51p) 
+(200,159.32p) 
+(250,140.73p) 
+(300,127.41p) 
+(350,117.22p) 
+(400,108.73p) 
+(450,102.6p) 
+(500,97.51p) 
+(550,94.76p) 
+(600,93.22p) 
+(650,92.13p) 
+(700,91.41p) 
+(750,90.91p) 
+(800,90.57p) 
+(850,90.23p) 
+(900,90.02p) 
+(950,89.81p) 
+(1000,89.61p) 

*********************** terzo ***************************

Eee h1 0 value {stacco(limit(v(source,gate),0,5),V(Tj))}
Ree h1 h 1
CCC h 0 5u

.PARAM  d_terzo={((Vsdmax)*limit(dVsd,0,1)+(Vsdmin)*limit(dVsd,-1,0))}
.PARAM Vsdmin=0.016 Vsdmax=0.017

.FUNC stacco(vgs,t) {(0.012+0.04m*(t-25))*Vgs+(0.11-0.11m*(t-25))+(d_terzo+0.05m*(t-25)*0)}
V_diodo d1zd d1z 0

G_diode source d1zd VALUE={I_diode(V(source,d1zd),v(Tj),V(h))}
R_x source d1zd 1E6

.FUNC I_diode(z3,k3,k6) {(exp(min(-15+z3/(did(k3,k6)),7))-0)}
.FUNC did(k4,k5) {k5-3E-05*(k4-25)}
.FUNC ResDiodo(x,vgs) {(0.6m-0.05m*(x-25))*vgs+(30m+0.18m*(x-25))}

Gvf d3x d1z VALUE={V(d3x,d1z)/ResDiodo(V(Tj),v(source,gate))}
R_Y d3x d1z 1

************************** Recovery Diode ***********************

E_E001 ba 0 VALUE {-I(V_Diodo)}
R_R002 aa ba  50k
C aa 0 1E-12
.PARAM Irrm=90E03
R_edep d3x d_dedep 30
E_Eds d_dedep edep VALUE {-V(aa,0)*Irrm}

Edeva dev1a 0 value {v(edep,source)}
C_dev1a dev1a dev2a 0.3E-12
R_deva dev2a dev3a 1E-06
V_millera dev3a 0 0 
G_millera edep source  value ={v(alfaa)*i(V_millera)*1E12}
******************************
Rcapa alfaa 0 1E03
Ecapa alfaa 0 TABLE ={V(Tj)}
+(25,1p)
+(150,1.2p)   
*****************************************************************

.ENDS 
